US06780471B2
A solution of 4-bromophenyl magnesium bromide (7.82 g, 50 mmol) in THF (100 ml) was added at 0° C. to a solution of chloromethyldiisopropyloxysilane (10 g, 48 mmol). The mixture was stirred at room temperature for 24 hours. After evaporation of the solvent, the yellow solid was extracted by 200 ml of dry pentane and filtered. The solvent was then pumped off to afford a yellow oil. Residual 1,4-dibromobenzene was sublimated under vacuum at 80° C. to give 4-bromo-1-(methyldiisopropyloxysilyl)benzene as a colourless oil in 33% yield (5.1 g, 16 mmol). 1H NMR (CDCl3, δ, ppm) 7.52 (4H, m); 4.22 (2H, heptuplet); 1.24 (12H, d); 0.39 (3H, s). 13C NMR (CDCl3, δ, ppm) 136.1, 134.5, 131.3, 125.1, 65.8, 26.1, −2.8. 29Si NMR (CDCl3, δ, ppm) −21.8.

reactant | 4-bromophenyl magnesium bromide | 50 mmol, 7.82 g | BrC1=CC=C(C=C1)[Mg]Br
reactant | chloromethyldiisopropyloxysilane | 48 mmol, 10 g | ClC[SiH](OC(C)C)OC(C)C | C7H17ClO2Si
reactant | 1,4-dibromobenzene | BrC1=CC=C(C=C1)Br | C6H4Br2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 4-bromo-1-(methyldiisopropyloxysilyl)benzene | 33% yield | BrC1=CC=C(C=C1)[Si](OC(C)C)(OC(C)C)C | C13H21BrO2Si
